US08242280B2
A solution of 2-(5-bromo-pyridin-3-yl)-2-hydroxy-N,N-dimethyl-acetamide (100 mg, 0.387 mmol) in DCM (3.0 mL) was cooled in an ice water bath and treated with mCPBA (100.3 mg, 0.581 mmol). After stirring at room temperature for 4 h, the mixture was cooled and additional mCPBA was added (66.7 mg, 1 eq.). After stirring 18 h at room temperature, another 0.3 eq of mCPBA was added (13.3 mg). Finally after 4 h, the reaction was quenched by addition of 38% aqueous sodium bisulfite (100 uL) and the mixture was dried over Na2SO4. After filtration, MP—CO3 (1.74 mmol) was added to scavenge the benzoic acid by-product. After 5 d (3 hours is sufficient), the mixture was filtered and the resin was rinsed with 10% MeOH in DCM. The product was concentrated in vacuo to afford 2-(5-bromo-pyridin-3-yl)-2-hydroxy-N,N-dimethyl-acetamide N-oxide (97.0 mg, 91.7%). MS: m/z 275 (M+H+).

reactant | 2-(5-bromo-pyridin-3-yl)-2-hydroxy-N,N-dimethyl-acetamide | 0.387 mmol, 100 mg | BrC=1C=C(C=NC1)C(C(=O)N(C)C)O | C9H11BrN2O2
reactant | mCPBA | 0.581 mmol, 100.3 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | mCPBA | 0.3 eq | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | DCM | 3.0 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-bromo-pyridin-3-yl)-2-hydroxy-N,N-dimethyl-acetamide N-oxide | 97.0 mg, 91.7% | BrC=1C=C(C=NC1)C(C(=O)[N+](C)(C)[O-])O | C9H11BrN2O3
